US07282588B2
Preparation of N-(2-hydroxyethyl)-2-[3-(4-{[(phenylamino)carbonyl]amino}phenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetamide
To a solution of [3-(4-{[(phenylamino)carbonyl]amino}phenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetic acid (0.13 mmol) in anhydrous N,N-dimethylformamide (4 mL) was added 1,1′-carbonyldiimidazole (0.156 mmol). The reaction mixture was stirred at room temperature for 30 minutes and then ethanolamine (0.195 mmol) was added. The reaction mixture was stirred for another 3 h and concentrated in vacuo. Purification of the residue by Gilson reverse phase HPLC afforded recovered starting material and the title compound as a white solid (9%). ESMS [M+H]+: 496.4

reactant | [3-(4-{[(phenylamino)carbonyl]amino}phenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetic acid | 0.13 mmol | C1(=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC=C2)CC(=O)O | C25H20N6O3
reactant | 1,1′-carbonyldiimidazole | 0.156 mmol | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethanolamine | 0.195 mmol | C(O)CN | C2H7NO
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | N-(2-hydroxyethyl)-2-[3-(4-{[(phenylamino)carbonyl]amino}phenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetamide | OCCNC(CN1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2)=O | C27H25N7O3
